US08470852B2
A 2M aq. LiOH sol. (125 ml) was added to a solution of 15.0 g (50.1 mmol) 2-hydroxy-4-methyl-7-(trifluoromethyl)quinoline-3-carboxylic acid ethyl ester in a MeOH/THF mixture (in each case 175 ml) and the mixture was subsequently heated to 60° C. for 16 h. The mixture was subsequently concentrated in a vacuum. The residue was taken up with water and adjusted to pH 2 with a 2M hydrochloric acid. Extraction was then carried out with EtOAc. The organic phase was washed with brine, dried over MgSO4 and concentrated in a vacuum. 12.0 g (44.2 mmol, 88%) 2-hydroxy-4-methyl-7-(trifluoromethyl)quinoline-3-carboxylic acid was obtained as a residue. The raw product was further converted without additional purification.

reactant | LiOH | 2M, 125 ml | [Li+].[OH-]
reactant | 2-hydroxy-4-methyl-7-(trifluoromethyl)quinoline-3-carboxylic acid ethyl ester | 50.1 mmol, 15.0 g | C(C)OC(=O)C=1C(=NC2=CC(=CC=C2C1C)C(F)(F)F)O | C14H12F3NO3
solvent | MeOH THF | CO.C1CCOC1
product | 2-hydroxy-4-methyl-7-(trifluoromethyl)quinoline-3-carboxylic acid | 44.2 mmol, 12.0 g, 88% | OC1=NC2=CC(=CC=C2C(=C1C(=O)O)C)C(F)(F)F | C12H8F3NO3
